US06048884
15.2 g of 2-methylimidazole and 40.7 g of 4-nitrobenzylimidazole were subjected to an alkylation reaction to obtain 24.8 g of 2-methyl-1-(4-nitrobenzyl)imidazole.

reactant | 2-methylimidazole | 15.2 g | CC=1NC=CN1 | C4H6N2
reactant | 4-nitrobenzylimidazole | 40.7 g | [N+](=O)([O-])C1=CC=C(CC=2NC=CN2)C=C1 | C10H9N3O2
product | 2-methyl-1-(4-nitrobenzyl)imidazole | 24.8 g | CC=1N(C=CN1)CC1=CC=C(C=C1)[N+](=O)[O-] | C11H11N3O2
